US04060528
To a stirred and cooled mixture of 28.4 parts of 2-chloro-m-toluoyl chloride, 12.6 parts of thiophene and 80 parts of methylene chloride is added dropwise a mixture of 39 parts of stannic chloride in 40 parts of methylene chloride at 10° C. Upon completion, stirring is continued first for 2 hours at 20° C and further for 3 hours at reflux. The reaction mixture is poured onto a mixture of ice-water and concentrated hydrochloric acid solution. The methylene chloride solution is separated, washed three times with water, dried, filtered and evaporated. The residue is distilled, yielding 2-chloro-m-tolyl 2-thienyl ketone; bp. 197°-199° C at 12 mm. pressure.

reactant | 2-chloro-m-toluoyl chloride | ClC1=C(C=CC=C1C(=O)Cl)C | C8H6Cl2O
reactant | thiophene | S1C=CC=C1 | C4H4S
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-m-tolyl 2-thienyl ketone | S1C(=CC=C1)C(=O)C=1C(=C(C=CC1)C)Cl | C12H9ClOS
